US05958918
B. 4,5-Dichlorothiophene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]benzylamide
The title compound is prepared as in EXAMPLE 126, Part A using 4,5-dichlorothiophene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide in place of 7-methoxynaphthalene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide and benzyl bromide in place of MeI to give the title compound as a white foam.

reactant | 4,5-dichlorothiophene-2-sulfonic acid [1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C=1SC(=C(C1)Cl)Cl)=O | C14H11Cl2N3O3S3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 4,5-Dichlorothiophene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]benzylamide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)N(S(=O)(=O)C=1SC(=C(C1)Cl)Cl)CC1=CC=CC=C1)=O | C21H17Cl2N3O3S3
